US07812022B2
Step E: 2,6-Difluoro-N-{3-[3-{5-fluoro-2-[(3-fluorophenyl)amino]-4-pyrimidinyl}-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide (title compound)
To an oven-dried flask under N2 was added 4-[2-(3-bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-5-fluoro-N-(3-fluorophenyl)-2-pyrimidinamine (40 mg, 0.08 mmol), anhydrous degassed 1,4-dioxane (10 mL), Pd2(dba)3 (13.4 mg, 0.01 mmol), Xantphos (12.7 mg, 0.02 mmol), 2,6-difluorobenzamide (34.5 mg, 0.2 mmol), and Cs2CO3 (83 mg, 0.26 mmol). The reaction was heated in the microwave at 160° C. for 15 min, adsorbed to silica gel, and purified by LC (DCM to 5% MeOH/DCM) to afford the desired product (30 mg, 66%) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 6.63-6.67 (m, 1H), 7.10-7.25 (m, 4H), 7.29-7.34 (m, 2H), 7.39-7.47 (m, 1H), 7.53-7.59 (m, 1H), 7.68-7.70 (m, 2H), 8.04-8.10 (m, 2H), 8.60 (s, 1H), 9.57 (s, 1H), 9.97 (s, 1H), 10.87 (s, 1H); ESIMS (M+H)+=623.

reactant | 4-[2-(3-bromophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-5-fluoro-N-(3-fluorophenyl)-2-pyrimidinamine | 0.08 mmol, 40 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=NC(=NC=C1F)NC1=CC(=CC=C1)F | C24H13BrF5N5
reactant | Xantphos | 0.02 mmol, 12.7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2,6-difluorobenzamide | 0.2 mmol, 34.5 mg | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
reactant | Cs2CO3 | 0.26 mmol, 83 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.01 mmol, 13.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2,6-Difluoro-N-{3-[3-{5-fluoro-2-[(3-fluorophenyl)amino]-4-pyrimidinyl}-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | 30 mg, 66% | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC(=C3)C(F)(F)F)=C2C2=NC(=NC=C2F)NC2=CC(=CC=C2)F)C(=CC=C1)F | C31H17F7N6O
